* /home/inderjitsingh/esim_mixed_signal_marathon_2022/counter_4b/counter_4b.cir

* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ inderjit_4bitcounter
* u11  ? ? ? ? adc_bridge_2
* u5  clk reset net-_u2-pad1_ net-_u2-pad2_ adc_bridge_2
* u6  net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_r3-pad1_ o2 o1 o0 dac_bridge_4
r3  net-_r3-pad1_ o3 1k
c1  o3 gnd 1u
v1  net-_r1-pad1_ gnd pulse(0 5 1m 1m 1m 1 2)
v3  ? ? pulse(0 0 0 0 0 0 0)
v2  reset gnd pulse(0 5 0.1m 0.1m 0.1m 1 1000)
r1  net-_r1-pad1_ clk 1k
r2  clk gnd 1k
* u1  ? plot_v1
* u10  o3 plot_v1
* u7  o2 plot_v1
* u8  o1 plot_v1
* u9  o0 plot_v1
* u3  reset plot_v1
* u4  clk plot_v1
a1 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] u2
a2 [? ? ] [? ? ] u11
a3 [clk reset ] [net-_u2-pad1_ net-_u2-pad2_ ] u5
a4 [net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] [net-_r3-pad1_ o2 o1 o0 ] u6
* Schematic Name:                             inderjit_4bitcounter, NgSpice Name: inderjit_4bitcounter
.model u2 inderjit_4bitcounter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(?)
plot v(o3)
plot v(o2)
plot v(o1)
plot v(o0)
plot v(reset)
plot v(clk)
.endc
.end
