* /home/inderjitsingh/esim_mixed_signal_marathon_2022/counter_4bit/counter_4bit.cir

* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ inderjit_4bitcounter
* u4  clk reset net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u5  net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_r3-pad1_ o2 o1 o0 dac_bridge_4
v1  net-_r1-pad1_ gnd pulse(0 5 0.1m 0.1m 0.1m 1 2)
v2  reset gnd pulse(0 5 0.1m 0.1m 0.1m 1 1000)
r1  net-_r1-pad1_ clk 1k
r2  clk gnd 1k
r3  net-_r3-pad1_ o3 1k
c1  o3 gnd 1u
* u7  o1 plot_v1
* u8  o0 plot_v1
* u3  clk plot_v1
* u6  o2 plot_v1
* u2  reset plot_v1
* u9  o3 plot_v1
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] u1
a2 [clk reset ] [net-_u1-pad1_ net-_u1-pad2_ ] u4
a3 [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ ] [net-_r3-pad1_ o2 o1 o0 ] u5
* Schematic Name:                             inderjit_4bitcounter, NgSpice Name: inderjit_4bitcounter
.model u1 inderjit_4bitcounter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(o3) v(o2)+6 v(o1)+12 v(o0)+18 v(clk)+24 v(reset)+30
.endc
.end
